** Name: SimpleTwoStageOpAmp_SimpleOpAmp50_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp50_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=10e-6 W=220e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=29e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=10e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mNormalTransistorNmos5 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=17e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=441e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=10e-6 W=220e-6
mNormalTransistorNmos8 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=21e-6
mNormalTransistorNmos9 out outFirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=429e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=21e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=6e-6 W=187e-6
mNormalTransistorPmos12 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=127e-6
mNormalTransistorPmos13 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=127e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=147e-6
mNormalTransistorPmos15 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=532e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=3e-6 W=147e-6
Capacitor1 outFirstStage out 2.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp50_1

** Expected Performance Values: 
** Gain: 92 dB
** Power consumption: 3.19801 mW
** Area: 12718 (mu_m)^2
** Transit frequency: 14.0901 MHz
** Transit frequency with error factor: 14.0663 MHz
** Slew rate: 23.9743 V/mu_s
** Phase margin: 61.3065°
** CMRR: 103 dB
** VoutMax: 4.69001 V
** VoutMin: 0.160001 V
** VcmMax: 5.10001 V
** VcmMin: 0.860001 V


** Expected Currents: 
** NormalTransistorNmos: 152.301 muA
** NormalTransistorNmos: 5.78101 muA
** NormalTransistorPmos: -51.5789 muA
** NormalTransistorPmos: -83.3639 muA
** NormalTransistorPmos: -51.5789 muA
** NormalTransistorPmos: -83.3639 muA
** DiodeTransistorNmos: 51.5781 muA
** NormalTransistorNmos: 51.5781 muA
** NormalTransistorNmos: 63.5691 muA
** NormalTransistorNmos: 31.7841 muA
** NormalTransistorNmos: 31.7841 muA
** NormalTransistorNmos: 304.781 muA
** NormalTransistorPmos: -304.78 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -152.3 muA
** DiodeTransistorPmos: -5.78199 muA


** Expected Voltages: 
** ibias: 0.561001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.563001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.12601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.571001  V
** sourceGCC1: 4.40001  V
** sourceGCC2: 4.40001  V
** sourceTransconductance: 1.79501  V


.END