** Name: SimpleTwoStageOpAmp_SimpleOpAmp50_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp50_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=10e-6 W=27e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=14e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=7e-6 W=51e-6
mNormalTransistorNmos5 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=10e-6 W=27e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=3e-6 W=581e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=57e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=6e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=224e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=224e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=48e-6
mNormalTransistorPmos12 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=137e-6
mNormalTransistorPmos13 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=564e-6
mNormalTransistorPmos14 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=137e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=7e-6 W=497e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=7e-6 W=497e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=580e-6
Capacitor1 outFirstStage out 9e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp50_10

** Expected Performance Values: 
** Gain: 98 dB
** Power consumption: 9.49801 mW
** Area: 14959 (mu_m)^2
** Transit frequency: 13.1731 MHz
** Transit frequency with error factor: 13.1658 MHz
** Slew rate: 11.1142 V/mu_s
** Phase margin: 60.1606°
** CMRR: 97 dB
** VoutMax: 4.25 V
** VoutMin: 0.300001 V
** VcmMax: 5.07001 V
** VcmMin: 0.860001 V


** Expected Currents: 
** NormalTransistorNmos: 142.147 muA
** NormalTransistorNmos: 14.8231 muA
** NormalTransistorPmos: -82.8149 muA
** NormalTransistorPmos: -141.959 muA
** NormalTransistorPmos: -82.8149 muA
** NormalTransistorPmos: -141.959 muA
** DiodeTransistorNmos: 82.8141 muA
** NormalTransistorNmos: 82.8141 muA
** NormalTransistorNmos: 118.289 muA
** NormalTransistorNmos: 59.1441 muA
** NormalTransistorNmos: 59.1441 muA
** NormalTransistorNmos: 1448.79 muA
** NormalTransistorPmos: -1448.78 muA
** NormalTransistorPmos: -1448.78 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -142.146 muA
** DiodeTransistorPmos: -14.8239 muA


** Expected Voltages: 
** ibias: 0.702001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.06401  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.10001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 1.00401  V
** sourceGCC1: 4.43301  V
** sourceGCC2: 4.43301  V
** sourceTransconductance: 1.93701  V
** innerTransconductance: 4.62801  V


.END