** Name: SimpleTwoStageOpAmp_SimpleOpAmp50_12

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp50_12 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=13e-6
mDiodeTransistorNmos2 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=1e-6 W=20e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=454e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=7e-6 W=82e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=600e-6
mNormalTransistorNmos7 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=1e-6 W=454e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=7e-6 W=82e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=319e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=256e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=241e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=241e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=161e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=20e-6
mNormalTransistorPmos15 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=586e-6
mNormalTransistorPmos16 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=62e-6
mNormalTransistorPmos17 outInputVoltageBiasXXnXX1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=202e-6
mNormalTransistorPmos18 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=62e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=569e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=569e-6
mNormalTransistorPmos21 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=600e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 8.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp50_12

** Expected Performance Values: 
** Gain: 136 dB
** Power consumption: 11.9061 mW
** Area: 14162 (mu_m)^2
** Transit frequency: 14.3631 MHz
** Transit frequency with error factor: 14.3518 MHz
** Slew rate: 13.9454 V/mu_s
** Phase margin: 60.1606°
** CMRR: 102 dB
** VoutMax: 4.25 V
** VoutMin: 0.800001 V
** VcmMax: 5.22001 V
** VcmMin: 0.75 V


** Expected Currents: 
** NormalTransistorNmos: 243.681 muA
** NormalTransistorNmos: 193.64 muA
** NormalTransistorPmos: -65.0559 muA
** NormalTransistorPmos: -121.78 muA
** NormalTransistorPmos: -182.669 muA
** NormalTransistorPmos: -121.782 muA
** NormalTransistorPmos: -182.673 muA
** DiodeTransistorNmos: 121.783 muA
** NormalTransistorNmos: 121.783 muA
** NormalTransistorNmos: 121.782 muA
** NormalTransistorNmos: 60.8901 muA
** NormalTransistorNmos: 60.8901 muA
** NormalTransistorNmos: 1503.39 muA
** DiodeTransistorNmos: 1503.39 muA
** NormalTransistorPmos: -1503.38 muA
** NormalTransistorPmos: -1503.38 muA
** DiodeTransistorNmos: 65.0551 muA
** NormalTransistorNmos: 65.0541 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -243.68 muA
** DiodeTransistorPmos: -193.639 muA


** Expected Voltages: 
** ibias: 0.595001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 4.06301  V
** outInputVoltageBiasXXnXX1: 1.20401  V
** outSourceVoltageBiasXXnXX1: 0.602001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.24601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.754001  V
** sourceGCC1: 4.58001  V
** sourceGCC2: 4.58001  V
** sourceTransconductance: 1.94001  V
** innerTransconductance: 4.62701  V
** inner: 0.602001  V


.END