** Name: SimpleTwoStageOpAmp_SimpleOpAmp51_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp51_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=9e-6 W=55e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=13e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=579e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=1e-6 W=23e-6
mNormalTransistorNmos8 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=9e-6 W=55e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=51e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=51e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=43e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=568e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=235e-6
mNormalTransistorPmos14 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=373e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=113e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=45e-6
mNormalTransistorPmos17 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=373e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=237e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=237e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 7.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp51_8

** Expected Performance Values: 
** Gain: 122 dB
** Power consumption: 14.9881 mW
** Area: 4847 (mu_m)^2
** Transit frequency: 13.4681 MHz
** Transit frequency with error factor: 13.4679 MHz
** Slew rate: 22.4886 V/mu_s
** Phase margin: 60.1606°
** CMRR: 137 dB
** VoutMax: 4.25 V
** VoutMin: 0.530001 V
** VcmMax: 5.17001 V
** VcmMin: 0.910001 V


** Expected Currents: 
** NormalTransistorPmos: -113.29 muA
** NormalTransistorPmos: -44.7219 muA
** NormalTransistorPmos: -151.487 muA
** NormalTransistorPmos: -240.288 muA
** NormalTransistorPmos: -151.487 muA
** NormalTransistorPmos: -240.288 muA
** NormalTransistorNmos: 151.488 muA
** NormalTransistorNmos: 151.488 muA
** DiodeTransistorNmos: 151.488 muA
** NormalTransistorNmos: 177.6 muA
** NormalTransistorNmos: 88.8001 muA
** NormalTransistorNmos: 88.8001 muA
** NormalTransistorNmos: 2339.08 muA
** NormalTransistorNmos: 2339.08 muA
** NormalTransistorPmos: -2339.07 muA
** DiodeTransistorNmos: 113.291 muA
** DiodeTransistorNmos: 44.7211 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.42701  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.19901  V
** outVoltageBiasXXnXX1: 1.13301  V
** outVoltageBiasXXnXX2: 0.625  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.944001  V
** out1: 1.62701  V
** sourceGCC1: 4.14101  V
** sourceGCC2: 4.14101  V
** sourceTransconductance: 1.80701  V
** innerStageBias: 0.420001  V


.END