** Name: SimpleTwoStageOpAmp_SimpleOpAmp52_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp52_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=47e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=6e-6 W=289e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=29e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=271e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=6e-6 W=289e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=119e-6
mNormalTransistorNmos8 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=3e-6 W=106e-6
mNormalTransistorNmos9 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=296e-6
mNormalTransistorNmos10 inputVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=4e-6 W=128e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=79e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=79e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=4e-6 W=47e-6
mNormalTransistorPmos14 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=267e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=483e-6
mNormalTransistorPmos16 inputVoltageBiasXXnXX1 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=344e-6
mNormalTransistorPmos17 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=267e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=144e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 inputVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=2e-6 W=144e-6
Capacitor1 outFirstStage out 7.20001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp52_1

** Expected Performance Values: 
** Gain: 136 dB
** Power consumption: 9.61801 mW
** Area: 9224 (mu_m)^2
** Transit frequency: 15.6411 MHz
** Transit frequency with error factor: 15.6406 MHz
** Slew rate: 15.3336 V/mu_s
** Phase margin: 60.1606°
** CMRR: 147 dB
** VoutMax: 4.64001 V
** VoutMin: 0.150001 V
** VcmMax: 5.04001 V
** VcmMin: 0.910001 V


** Expected Currents: 
** NormalTransistorNmos: 294.448 muA
** NormalTransistorNmos: 318.744 muA
** NormalTransistorPmos: -404.604 muA
** NormalTransistorPmos: -108.437 muA
** NormalTransistorPmos: -166.03 muA
** NormalTransistorPmos: -108.437 muA
** NormalTransistorPmos: -166.03 muA
** DiodeTransistorNmos: 108.438 muA
** NormalTransistorNmos: 108.438 muA
** NormalTransistorNmos: 108.438 muA
** NormalTransistorNmos: 115.186 muA
** NormalTransistorNmos: 57.5921 muA
** NormalTransistorNmos: 57.5921 muA
** NormalTransistorNmos: 563.771 muA
** NormalTransistorPmos: -563.77 muA
** DiodeTransistorNmos: 404.605 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -294.447 muA
** DiodeTransistorPmos: -318.743 muA


** Expected Voltages: 
** ibias: 0.747001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 0.958001  V
** inputVoltageBiasXXpXX2: 4.07501  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 0.363001  V
** out1: 0.568001  V
** sourceGCC1: 4.40001  V
** sourceGCC2: 4.40001  V
** sourceTransconductance: 1.93401  V


.END