** Name: SimpleTwoStageOpAmp_SimpleOpAmp52_10

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp52_10 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=8e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=8e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=10e-6 W=380e-6
mNormalTransistorNmos6 out ibias sourceNmos sourceNmos nmos4 L=2e-6 W=546e-6
mNormalTransistorNmos7 outFirstStage inputVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=8e-6 W=95e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=123e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=86e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=16e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=49e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=49e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=40e-6
mNormalTransistorPmos14 out outVoltageBiasXXpXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=518e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=10e-6 W=122e-6
mNormalTransistorPmos16 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=121e-6
mNormalTransistorPmos17 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=121e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=10e-6 W=264e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=10e-6 W=264e-6
mNormalTransistorPmos20 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=373e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp52_10

** Expected Performance Values: 
** Gain: 132 dB
** Power consumption: 5.58701 mW
** Area: 14890 (mu_m)^2
** Transit frequency: 13.6201 MHz
** Transit frequency with error factor: 13.6203 MHz
** Slew rate: 20.7256 V/mu_s
** Phase margin: 61.8795°
** CMRR: 142 dB
** VoutMax: 4.41001 V
** VoutMin: 0.170001 V
** VcmMax: 5.01001 V
** VcmMin: 0.820001 V


** Expected Currents: 
** NormalTransistorNmos: 152.301 muA
** NormalTransistorNmos: 105.383 muA
** NormalTransistorPmos: -34.3589 muA
** NormalTransistorPmos: -48.6529 muA
** NormalTransistorPmos: -73.1609 muA
** NormalTransistorPmos: -48.6519 muA
** NormalTransistorPmos: -73.1599 muA
** DiodeTransistorNmos: 48.6521 muA
** NormalTransistorNmos: 48.6511 muA
** NormalTransistorNmos: 48.6521 muA
** NormalTransistorNmos: 49.0151 muA
** NormalTransistorNmos: 24.5071 muA
** NormalTransistorNmos: 24.5071 muA
** NormalTransistorNmos: 669.054 muA
** NormalTransistorPmos: -669.053 muA
** NormalTransistorPmos: -669.054 muA
** DiodeTransistorNmos: 34.3581 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -152.3 muA
** DiodeTransistorPmos: -105.382 muA


** Expected Voltages: 
** ibias: 0.576001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX1: 1.03901  V
** out: 2.5  V
** outFirstStage: 4.11801  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.04101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 0.413001  V
** out1: 0.594001  V
** sourceGCC1: 4.40001  V
** sourceGCC2: 4.40001  V
** sourceTransconductance: 1.85101  V
** innerTransconductance: 4.51801  V


.END